US06531492B1
4,4,4-Trifluoro-1-(3-chloro-4-methoxylphenyl)-1,3-butanedione (Step 2)
To stirred solution of 1-(3-chloro-4-methoxyphenyl)ethanone (2.2 g, 12 mmol) in DME was added ethyl trifluoroacetate (4.28 ml, 36 mmol) and sodium methoxide (4.25 g, 72 mmol), and the resulting reaction mixture was stirred at room temperature for 1 hour. EtOAc (200 ml) and water (50 ml) were added, and the pH of the aqueous layer was adjusted to 6 by addition of 1 N HCl solution. The organic layer was washed with brine (50 ml), dried over MgSO4, and concentrated in vacuo to give the title compound in quantitative yield. This was used for the next coupling step without further purification.

reactant | 1-(3-chloro-4-methoxyphenyl)ethanone | 12 mmol, 2.2 g | ClC=1C=C(C=CC1OC)C(C)=O | C9H9ClO2
reactant | ethyl trifluoroacetate | 36 mmol, 4.28 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium methoxide | 72 mmol, 4.25 g | C[O-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | DME | COCCOC | C4H10O2
solvent | water | 50 ml | O | H2O
solvent | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
product | 4,4,4-Trifluoro-1-(3-chloro-4-methoxylphenyl)-1,3-butanedione | quantitative yield | FC(C(CC(=O)C1=CC(=C(C=C1)OC)Cl)=O)(F)F | C11H8ClF3O3
